US04009170
In a manner similar to that of Example 4, condensation of 1-hydrazino-3,4-dihydroisoquinoline (11.0 g.) and tigladehyde (7.47 g.) and treatment of the product with sulfuric acid gave 1-[2-(2,3-dimethylallylidene)hydrazino]-3,4-dihydroisoquinoline (I: X=CH3CH=C(CH3), X'=Y=Y'=Z=Z'=H) sulfate (5.1 g., m.p. 231°-232° C. with decomposition).

reactant | 1-hydrazino-3,4-dihydroisoquinoline | 11.0 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-[2-(2,3-dimethylallylidene)hydrazino]-3,4-dihydroisoquinoline | CC(C=NNC1=NCCC2=CC=CC=C12)=CC | C14H17N3
